US07067540B2
To a solution of 4-methyl-2-methylthiopyrimidine (12.6 g, 0.09 mol) in acetic acid (50.0 mL) was added bromine (5.5 mL, 0.11 mol) and heated at 80° C. under argon atmosphere for 2 h. Acetic acid was distilled in vacuo, the residue was triturated with dichloromethane (100.0 mL) and poured into satd. sod.bicarbonate solution (200.0 mL). Additional dichloromethane (100.0 ml) was added and stirred for 15 min. The organic phase was washed with water (3×100 mL), dried (Na2SO4), and concentrated under reduced pressure. The dark colored residue was purified by flash chromatography (EtOAc/hexane 1:4 v/v) to afford 4-(bromomethyl)-2-(methylthio)pyrimidine (10.9 g, 55%) as a dark colored liquid: 1H NMR (CDCl3/400 MHz) δ 8.50 (d, 1H, J=4.8 Hz), 7.09 (d, 1H, J=4.8 Hz), 4.34 (s, 2H), and 2.56 (s, 3H); ES MS m/z 219 (M+H).

reactant | 4-methyl-2-methylthiopyrimidine | 0.09 mol, 12.6 g | CC1=NC(=NC=C1)SC | C6H8N2S
reactant | bromine | 0.11 mol, 5.5 mL | BrBr | Br2
solvent | acetic acid | 50.0 mL | C(C)(=O)O | C2H4O2
product | 4-(bromomethyl)-2-(methylthio)pyrimidine | 10.9 g, 55% | BrCC1=NC(=NC=C1)SC | C6H7BrN2S
